US07390833B2
2-[4′-(2,8-Bis-trifluoromethyl-quinolin-4-yloxymethyl)-biphenyl-4-sulfonylamino]-3-methyl-butyric acid
2-[4′-(2,8-Bis-trifluoromethyl-quinolin-4-yloxymethyl)-biphenyl-4-sulfonylamino]-3-methyl-butyric acid methyl ester (1.026 g, 1.6 mmol, 1 equiv.) was dissolved in THF (15 mL) and MeOH (6 mL) and 1N NaOH (17.6 mL, 11 equiv.) was added. The reaction was monitored by TLC. It was complete in 3 days. Solvent was removed by rotovap and the residue was dissolved in H2O. The mixture was then acidified to pH 3 with 1N HCl. The resulting precipitate was collected by filtration and washed with cold water and dried overnight. 460 mg of white solid was obtained in 46% yield.

reactant | 2-[4′-(2,8-Bis-trifluoromethyl-quinolin-4-yloxymethyl)-biphenyl-4-sulfonylamino]-3-methyl-butyric acid methyl ester | 1.6 mmol, 1.026 g, 1 equiv. | COC(C(C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)COC1=CC(=NC2=C(C=CC=C12)C(F)(F)F)C(F)(F)F)=O | C30H26F6N2O5S
reactant | MeOH | 6 mL | CO | CH4O
reactant | NaOH | 1N, 17.6 mL, 11 equiv. | [OH-].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-[4′-(2,8-Bis-trifluoromethyl-quinolin-4-yloxymethyl)-biphenyl-4-sulfonylamino]-3-methyl-butyric acid | 460 mg, 46% yield | FC(C1=NC2=C(C=CC=C2C(=C1)OCC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)NC(C(=O)O)C(C)C)C(F)(F)F)(F)F | C29H24F6N2O5S
